US04183909
5.0 g (14.0 mmoles) of H-Asp(OtBu)-D-Phg-NH2.HCl, prepared as described in Example 1, Step 4, and 5.13 g (14.2 mmoles) of Z-Leu-OSu are dissolved in 60 ml of DMF, and 1.96 ml (14.0 mmoles) of triethylamine are added to the solution. Next day the reaction mixture is evaporated in vacuo, and the residue is triturated with water. The resulting crude product, weighing 7.32 g, is recrystallized from ethanol under decolourizing. 6.05 g (77.7%) of Z-Leu-Asp(OtBu)-D-Phg-NH2 are obtained; m.p.: 192°-194° C., Rf4 : 0.75. A sample of the product melts as 195°-196° C. after recrystallization from ethanol; [α9 D : -69.5° (c: 1.0, in dimethyl formamide).

reactant | H-Asp(OtBu)-D-Phg-NH2.HCl | 14.0 mmoles, 5.0 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N.Cl
reactant | Z-Leu-OSu | 14.2 mmoles, 5.13 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H22N2O6
reactant | triethylamine | 14.0 mmoles, 1.96 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | Z-Leu-Asp(OtBu)-D-Phg-NH2 | 6.05 g, 77.7% | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C30H40N4O7
